US06432955B1
109c. 1-[(N-tert.-Butoxycarbonyl-2-(R)-amino-3-(4-methoxyphenyl)-propionyl]-pyrrolidine-2-(S)-carboxylic acid benzyl ester
Reaction of 3.5 g of N-tert.-Butoxycarbonyl-2-(R)-amino-3-(4-methoxyphenyl)-propionic acid and 2.9 g of (L)-proline benzyl ester hydrochloride according to the procedure described for example 91b gave 3.0 g (52%) of the title compound as a yellow oil. (+)-APCI-MS: 505 (MNa+).

reactant | N-tert.-Butoxycarbonyl-2-(R)-amino-3-(4-methoxyphenyl)-propionic acid | 3.5 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1=CC=C(C=C1)OC | C15H21NO5
reactant | (L)-proline benzyl ester hydrochloride | 2.9 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
product | (N-tert.-Butoxycarbonyl-2-(R)-amino-3-(4-methoxyphenyl)-propionyl]-pyrrolidine-2-(S)-carboxylic acid benzyl ester | 3.0 g, 52% | C(C1=CC=CC=C1)OC(=O)[C@H]1N(CCC1)C([C@@H](CC1=CC=C(C=C1)OC)NC(=O)OC(C)(C)C)=O | C27H34N2O6
